US06544985B2
Method c (from 2-nitroanilines): To a solution of the 2-nitroaniline (550 mmol) and DMAP (1.22 g, 10 mmol) in THF (1000 mL) at 23° C. was dropwise added within 70 min a solution of Boc2O (246 g, 1128 mmol) in THF (500 mL) and stirring was continued at 23° C. for 75 min. The entire mixture was evaporated to dryness and dried at HV to leave a dark brown solid. This material was dissolved in DCM (1100 mL), cooled to 0° C. and TFA (84 mL, 1100 mmol) was added dropwise. The mixture was stirred at 0° C. for 2 h, poured into icecold sat. NaHCO3-sol., extracted with DCM, washed with brine and dried over MgSO4. Removal of the solvent in vacuum left a dark brown solid which was coated on silica gel and purified by silica gel column chromatography with hexane/EtOAc to give the (2-nitro-phenyl)-carbamic acid tert.-butyl ester as a yellow solid.

reactant | 2-nitroaniline | 550 mmol | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | Boc2O | 1128 mmol, 246 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | 1100 mmol, 84 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | DMAP | 10 mmol, 1.22 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 1000 mL | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | DCM | 1100 mL | C(Cl)Cl | CH2Cl2
product | (2-nitro-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC=C1)[N+](=O)[O-])=O | C11H14N2O4
